US07951954B2
c) {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-(2-methoxy-benzyl)-carbamic acid tert-butyl ester
Prepared from 2-{3-[2-(2-methoxy-benzylamino)-ethyl]-phenyl}-ethanol (2.7 g) and di-tert-butyl dicarbonate (2.1 g) using the method of Example 44 (step c). The compound was purified on silica, eluting with dichloromethane:ethyl acetate 5:1 to give 3.5 g of the sub-titled compound as an oil.

reactant | 2-{3-[2-(2-methoxy-benzylamino)-ethyl]-phenyl}-ethanol | 2.7 g | COC1=C(CNCCC=2C=C(C=CC2)CCO)C=CC=C1 | C18H23NO2
reactant | di-tert-butyl dicarbonate | 2.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-(2-methoxy-benzyl)-carbamic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(N(CC1=C(C=CC=C1)OC)CCC1=CC(=CC=C1)CCO)=O | C23H31NO4
